US07368458B2
3A. Preparation of tert-Butyl 6-bromopyridin-3-ylcarbamate
To a solution of 3-amino-6-bromopyridine (8.65 g, 50 mmol) in THF (100 mL) at 0° C. was added sodium bis(trimethylsilyl)amide (1 M solution in THF, 105 mL, 105 mmol). After addition, the reaction was stirred at 0° C. for 5 min, and then di-tert-butyl dicarbonate (12 g, 55 mmol) was added in several portions. After addition, the reaction was stirred at RT for 30 min, and then diluted with water (60 mL) and neutralized by adding ice-cold 1N HCl (about 90 mL) to pH=7˜8. The resultant mixture was extracted with EtOAc (3×100 mL). The combined organics were washed with saturated NaCl, dried (Na2SO4), filtered and concentrated. The resulting residue was purified by silica gel (330 g) column chromatography eluting with a gradient of EtOAc (0-50%) in hexane to give the title compound as an off-white solid (11.6 g, 85%). LC/MS (method A): retention time=3.47 min, (M+H−tBu))+=217.

reactant | 3-amino-6-bromopyridine | 50 mmol, 8.65 g | NC=1C=NC(=CC1)Br | C5H5BrN2
reactant | sodium bis(trimethylsilyl)amide | 105 mmol, 1 M, 105 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-tert-butyl dicarbonate | 55 mmol, 12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | tert-Butyl 6-bromopyridin-3-ylcarbamate | 11.6 g, 85% | BrC1=CC=C(C=N1)NC(OC(C)(C)C)=O | C10H13BrN2O2
